US07105544B2
1-(4-CHLOROPHENYL)-N-(3-{4-[6-(ISOBUTYRYLAMINO)-2-PYRIDINYL]-1-PIPERIDINYL}PROPYL)CYCLOHEXANECARBOXAMIDE
Example 67 was prepared from 1-(4-chlorophenyl)cyclohexanecarboxylic acid and N-{6-[1-(3-aminopropyl)-4-piperidinyl]-2-pyridinyl}-2-methylpropanamide according to the procedures described in Scheme 10: 1H NMR (400 MHz, CDCl3) δ 8.06 (d, 1H, J=8.4 Hz), 7.78 (br s, 1H), 7.65 (t, 1H, J=8.0 Hz), 7.40–7.38 (m, 2H), 7.30–7.27 (m, 2H), 6.88 (d, 2H, J=7.6 Hz), 3.29 (dd, 2H, J=6.0, 11.6 Hz), 2.96 (m, 2H), 2.56–2.49 (m, 2H), 2.36–2.30 (m, 4H), 2.00–1.75 (m, 8H), 1.64–1.59 (m, 8H), 1.25 (d, 6H, J=6.8 Hz); ESMS m/e: 525.3 (M+H)+.

reactant | 1-(4-chlorophenyl)cyclohexanecarboxylic acid | ClC1=CC=C(C=C1)C1(CCCCC1)C(=O)O | C13H15ClO2
reactant | N-{6-[1-(3-aminopropyl)-4-piperidinyl]-2-pyridinyl}-2-methylpropanamide | NCCCN1CCC(CC1)C1=CC=CC(=N1)NC(C(C)C)=O | C17H28N4O
product | 1-(4-CHLOROPHENYL)-N-(3-{4-[6-(ISOBUTYRYLAMINO)-2-PYRIDINYL]-1-PIPERIDINYL}PROPYL)CYCLOHEXANECARBOXAMIDE | ClC1=CC=C(C=C1)C1(CCCCC1)C(=O)NCCCN1CCC(CC1)C1=NC(=CC=C1)NC(C(C)C)=O | C30H41ClN4O2
